US07601870B2
2,4-Difluoro-6-morpholin-4-yl-phenylamine
Concentrated hydrochloric acid (6.3 mL) was added slowly to a mixture of zinc dust (4.9 g) and 4-(3,5-difluoro-2-nitro-phenyl)-morpholine (3.69 g) in tetrahydrofuran (40 mL) cooled to 0° C. The reaction mixture was then stirred for 1 hour at 0° C. and 2 hours at 25° C. The reaction mixture was filtered through Celite (10 g), concentrated in vacuo and purified by flash chromatography to furnish 1.76 g (54% yield) of the title compound as an orange solid. GC-MS (m/z) 215 (M+); tR=5.11. 1H NMR (500 MHz, DMSO-d6): 2.81 (t, 4H), 3.76 (t, 4H), 4.52 (s, 2H), 6.66 (dt, 1H), 6.82 (m, 1H).

reactant | hydrochloric acid | 6.3 mL | Cl | ClH
reactant | 4-(3,5-difluoro-2-nitro-phenyl)-morpholine | 3.69 g | FC=1C(=C(C=C(C1)F)N1CCOCC1)[N+](=O)[O-] | C10H10F2N2O3
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | zinc | 4.9 g | [Zn] | Zn
product | 2,4-Difluoro-6-morpholin-4-yl-phenylamine | 1.76 g, 54% yield | FC1=C(C(=CC(=C1)F)N1CCOCC1)N | C10H12F2N2O
